************************************************************************
* auCdl Netlist:
* 
* Library Name:  cad4
* Top Cell Name: AlphaPhaseLatch
* View Name:     schematic
* Netlisted on:  Nov 27 23:12:55 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!

*.PIN vss!
*+    vdd!

************************************************************************
* Library Name: cad4
* Cell Name:    INVD1
* View Name:    schematic
************************************************************************

.SUBCKT INVD1 vi vo
*.PININFO vi:I vo:O
MM0 vo vi vss! vss! NMOS_VTL W=300n L=50n m=1
MM1 vo vi vdd! vdd! PMOS_VTL W=400n L=50n m=1
.ENDS

************************************************************************
* Library Name: cad4
* Cell Name:    TransmissionGate
* View Name:    schematic
************************************************************************

.SUBCKT TransmissionGate ngate pgate vi vo
*.PININFO ngate:I pgate:I vi:I vo:O
MM1 vo pgate vi vdd! PMOS_VTL W=400n L=50n m=1
MM0 vi ngate vo vss! NMOS_VTL W=300n L=50n m=1
.ENDS

************************************************************************
* Library Name: cad4
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR a b z
*.PININFO a:I b:I z:O
MNMOS1 z b vss! vss! NMOS_VTL W=300n L=50n m=1
MNMOS0 z a vss! vss! NMOS_VTL W=300n L=50n m=1
MPMOS0 net4 a vdd! vdd! PMOS_VTL W=400n L=50n m=1
MPMOS1 z b net4 vdd! PMOS_VTL W=400n L=50n m=1
.ENDS

************************************************************************
* Library Name: cad4
* Cell Name:    XNOR
* View Name:    schematic
************************************************************************

.SUBCKT XNOR a b q
*.PININFO a:I b:I q:O
XI3 net1 net3 q / NOR
XI2 net2 b net3 / NOR
XI1 a net2 net1 / NOR
XI0 a b net2 / NOR
.ENDS

************************************************************************
* Library Name: cad4
* Cell Name:    AlphaPhaseLatch
* View Name:    schematic
************************************************************************

.SUBCKT AlphaPhaseLatch Clk Clk_bar D Q Q_bar rst
*.PININFO Clk:I Clk_bar:I D:I rst:I Q:O Q_bar:O
XI2 Q Q_bar / INVD1
XI3 Clk Clk_bar net3 Q / TransmissionGate
XI7 Clk_bar Clk D Q / TransmissionGate
XI8 Q_bar rst net3 / XNOR
.ENDS

